US06706716B2
8-{(1S)-2-[4-(2,4,5-Trifluorophenyl)piperazin-1-yl]-1-methylethyl}-8-azaspiro[4.5]decane-7,9-dione
A mixture of 1-(2,4,5-trifluorophenyl)piperazine (20 mg, 0.093 mmol) and (S)-8-(2-chloro-1-methylethyl)-8-azaspiro[4.5]decane-7,9-dione (20 mg, 0.082 mmol) was heated with stirring at 160° C. for 5 hours. The residue was purified by preparative HPLC (see Example 8 for conditions), giving (after removal of the solvent) the title compound as a pale yellow oil (18.1 mg, 0.043 mmol, 52%): ESI-MS m/z 424 (MH+).

reactant | 1-(2,4,5-trifluorophenyl)piperazine | 0.093 mmol, 20 mg | FC1=C(C=C(C(=C1)F)F)N1CCNCC1 | C10H11F3N2
reactant | (S)-8-(2-chloro-1-methylethyl)-8-azaspiro[4.5]decane-7,9-dione | 0.082 mmol, 20 mg | ClC[C@H](C)N1C(CC2(CCCC2)CC1=O)=O | C12H18ClNO2
product | 8-{(1S)-2-[4-(2,4,5-Trifluorophenyl)piperazin-1-yl]-1-methylethyl}-8-azaspiro[4.5]decane-7,9-dione | 0.043 mmol, 18.1 mg, 52% | FC1=C(C=C(C(=C1)F)F)N1CCN(CC1)C[C@H](C)N1C(CC2(CCCC2)CC1=O)=O | C22H28F3N3O2
